US04221798
2-(2-oxazolin-2-ylamino)-isoindoline
3.2 ml of (0.027 M) chlorethyl isocyanate in 15 ml of toluene are added dropwise to 5 g of (0.027 M) 2-amino-isoindoline in 100 ml toluene at a temperature of 20° to 30° C. After 1 hour, the precipitate is sucked off, washed with toluene and dried.

reactant | chlorethyl isocyanate | 0.027 M, 3.2 ml | ClCCN=C=O | C3H4ClNO
reactant | 2-amino-isoindoline | 0.027 M, 5 g | NN1CC2=CC=CC=C2C1 | C8H10N2
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2-oxazolin-2-ylamino)-isoindoline | O1C(=NCC1)NN1CC2=CC=CC=C2C1 | C11H13N3O
